US08492540B2
2-(4-Chloro-butyl)-2H-[1,2,4]triazine-3,5-dione
22.1 g of 3,5-Bis-trimethylsilanyloxy-[1,2,4]triazine (86 mmol) were dissolved in 150 mL of dichloroethane followed by addition of 14.7 g of 1-bromo-4-chloro-butane (86 mmol) and 0.218 g of iodine (0.858 mmol). The reaction mixture was stirred for 25 h at room temperature. Then, 300 mL of methanol were added and the mixture was stirred for an additional 10 minutes. The solvents were evaporated under reduced pressure and the residue was partitioned between dichloromethane and water. The aqueous phase was extracted several times with dichloromethane. The combined organic layers were washed with 10% aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and the organic phase was evaporated under reduced pressure. The thus obtained crude product was purified via silica gel chromatography using dichloromethane-methanol 0-10% to yield 13.4 g of the desired product.

reactant | 3,5-Bis-trimethylsilanyloxy-[1,2,4]triazine | 86 mmol, 22.1 g | C[Si](OC=1N=NC=C(N1)O[Si](C)(C)C)(C)C | C9H19N3O2Si2
reactant | 1-bromo-4-chloro-butane | 86 mmol, 14.7 g | BrCCCCCl | C4H8BrCl
reactant | methanol | 300 mL | CO | CH4O
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
catalyst | iodine | 0.858 mmol, 0.218 g | II | I2
product | 2-(4-Chloro-butyl)-2H-[1,2,4]triazine-3,5-dione | 13.4 g | ClCCCCN1N=CC(NC1=O)=O | C7H10ClN3O2
